Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Fevers, abdominal pain
 
Major Surgical or Invasive Procedure:
Abdominal abscess pigtail drain ___

 
History of Present Illness:
___ who was involved ___ a MVC requiring ex-lap,
ileocecectomy c/b hemoperitoneum requiring takeback < 24 hours.
Eventually this patient presented with a suspect enteric fistula
and liver abscess which then the transplant surgical service did
an ex-lap, drainage of abscess and ileocolectomy with 
ileocolonic
anastamosis. During this last hospitalization, his abscess was
polymicrobial and recieved V/C/F. Eventually his antibiotics 
were
switched over to Augmentin on discharge. 

He was last seen approximately on ___ at which time a CT 
of
the abdomen revealed a marked improvement ___ the abscess cavity
with a residual fluid collection measuring 6.7 x 3.5 cm. His
last remaining drain was removed at that time as it was only
putting out 5 cc/day of serous fluid. Per ID, given the
persistance of this collection, the decision was to continue
augmentin for 2 more weeks, which it appears the patient did not
do. 

Was doing well since then. No complaints. Good PO intake. 2 days
ago developed abdominal pain, felt a "mass" where previous JP
drain sites were. No N/V, +flatus. This AM developed fever of
101. Took some advil and tylenol and called ___ 
and
was informed to come to ED for further eval. 

Patient currently denies any other symptoms other than RUQ
abdominal pain. Of note patient has been slowly tapering off 
pain
medications since last year.
 

 
Past Medical History:
MVC with liver lacs leading to necrotic liver lesion

PSH:
Exploratory laparotomy, washout of hemoperitoneum, debridement 
of laceration of the liver, ileocecectomy, ileocolostomy.
s/p Left ankle ORIF
s/p removal of adenoids
___:
1. Exploratory laparotomy and lysis of adhesions.
2. Debridement of liver.
3. Ileocolectomy with ileocolonic anastomosis
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
PE: 96.7 114 119/93 14 96% RA 
NAD, A+OX3
no scleral icterus
RRR
CTAB
Soft, TTP RUQ mainly over JP site. Mass felt with bowel noises
likely overlying bowel versus fluid collection. No cellulitis. 
No
peritoneal signs. MIdline scar well healed no hernias felt.
no flank pain b/l
no c/c/e

Labs:
CBC: 12.5 (86N)/44.4/198
Chem: ___
LFT: 151/96/291/1.1 ___ - ___
Coag: 12.5/33.8/1.2
Lactate: 1.0

 
Pertinent Results:
___ 04:00PM BLOOD WBC-12.5*# RBC-5.05 Hgb-14.3 Hct-44.4 
MCV-88 MCH-28.4 MCHC-32.2 RDW-14.5 Plt ___
___ 05:40AM BLOOD WBC-5.5# RBC-4.65 Hgb-13.4* Hct-40.5 
MCV-87 MCH-28.8 MCHC-33.1 RDW-14.4 Plt ___
___ 06:30AM BLOOD ___ PTT-29.2 ___
___ 04:00PM BLOOD Glucose-106* UreaN-14 Creat-0.7 Na-136 
K-4.2 Cl-100 HCO3-26 AnGap-14
___ 05:40AM BLOOD Glucose-87 UreaN-14 Creat-0.7 Na-140 
K-4.4 Cl-102 HCO3-30 AnGap-12
___ 04:00PM BLOOD ALT-151* AST-96* AlkPhos-291* TotBili-1.1
___ 05:40AM BLOOD ALT-65* AST-32 AlkPhos-198* TotBili-0.3

___ Blood cultures: negative to date, unfinalized
___ rectal swab VRE negative

___ 10:00 am ABSCESS      HEPATIC ABSCESS. 

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS, CHAINS, AND 
CLUSTERS. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 

   WOUND CULTURE (Preliminary): 
      This culture contains mixed bacterial types (>=3) so an 
abbreviated
      workup is performed. Any growth of P.aeruginosa, S.aureus 
and beta
      hemolytic streptococci will be reported. IF THESE BACTERIA 
ARE NOT
      REPORTED BELOW, THEY ARE NOT PRESENT ___ this culture.. 
      WORK UP PER ___ ___. 
      CITROBACTER FREUNDII COMPLEX.    SPARSE GROWTH. 
         This organism may develop resistance to third 
generation
         cephalosporins during prolonged therapy. Therefore, 
isolates that
         are initially susceptible may become resistant within 
three to
         four days after initiation of therapy.  For serious 
infections,
         repeat culture and sensitivity testing may therefore be 
warranted
         if third generation cephalosporins were used. 
      ESCHERICHIA COLI.    SPARSE GROWTH. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             CITROBACTER FREUNDII COMPLEX
                             |          ESCHERICHIA COLI
                             |          |   
AMPICILLIN------------              <=2 S
AMPICILLIN/SULBACTAM--              <=2 S
CEFAZOLIN-------------              <=4 S
CEFEPIME--------------   <=1 S      <=1 S
CEFTAZIDIME-----------   <=1 S      <=1 S
CEFTRIAXONE-----------   <=1 S      <=1 S
CIPROFLOXACIN---------<=0.25 S   <=0.25 S
GENTAMICIN------------   <=1 S      <=1 S
MEROPENEM-------------<=0.25 S   <=0.25 S
PIPERACILLIN/TAZO-----   <=4 S      <=4 S
TOBRAMYCIN------------   <=1 S      <=1 S
TRIMETHOPRIM/SULFA----   <=1 S      <=1 S

   ANAEROBIC CULTURE (Preliminary):    RESULTS PENDING. 

 
Brief Hospital Course:
___ w h/o MVC ex-lap, ileocecetomy developed liver abscess and 
enteric fistula s/p debridement and ileocolectomy. Patient had 
large fluid collection before drain was pulled presented with 
fevers, elevated LFT and new onset abdominal pain near fluid 
collection,  worrisome for infected fluid collection and/or new 
liver abscess. Other ddx included cholecystitis and abscess near 
ileocolonic anastamosis. He was pan cultured and started on IV 
Vanco, Cipro and Flagyl. CT Abd/Pelvis with PO and IV contrast 
was done showing 7.5 x 3.5 x 13.3 cm (TV x AP x CC) subhepatic 
collection extending up to the anterolateral abdominal wall ___ 
the region of the prior drain. The previous perihepatic 
collection located more posteriorly was nearly resolved with a 
small amount of residual fluid remaining. On ___ he had a 
temperature spike to 102. He then underwent CT-guided placement 
of an 8 ___ catheter inside right mid abdomen abscess.  There 
was no communication of the adjacent bowel was demonstrated.  
Drainage was from collection was sent to microbiology. Drain 
output was purulent. 

He remained afebrile with wbc decreasing to 5.5 from 12. Drain 
output averaged 40cc/d then decreased to 20cc/d. Drain was 
flushed with saline and flush came out of drain insertion site. 
Drain output decreased to scant output. Micro isolated 
pansensitive Citrobacter and E. coli. ID was consulted and 
recommended oral Cipro 500mg bid and Flagyl 500mg tid for 2 
weeks then f/u CT. 

Instructions for drain care were provided. Drain flushes were 
stopped. He felt well and was discharged to home. 

 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OxycoDONE (Immediate Release)  7.5 mg PO Q6H:PRN pain 
2. Acetaminophen ___ mg PO Q8H:PRN pain 
maximum 3 grams daily 
3. Docusate Sodium 100 mg PO BID 
4. Senna 1 TAB PO BID:PRN constipation 
5. Milk of Magnesia 30 mL PO PRN constipation 
6. Calcium Carbonate 500 mg PO TID 
7. Vitamin D 400 UNIT PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. Ibuprofen 600 mg PO Q8H:PRN pain 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. Multivitamins 1 TAB PO DAILY 
3. Senna 1 TAB PO BID:PRN constipation 
4. Vitamin D 400 UNIT PO DAILY 
5. Acetaminophen ___ mg PO Q8H:PRN pain 
6. Milk of Magnesia 30 mL PO PRN constipation 
7. Ibuprofen 600 mg PO Q8H:PRN pain 
8. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth twice a day Disp 
#*28 Tablet Refills:*0
9. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*42 Tablet Refills:*0
10. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
your PCP ___ write script 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right mid intra-abdominal abscess (citrobacter and Ecoli 
isolated)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call Dr ___ office at ___ if you experience 
fever (temperature of 101 or greater), chills, increased 
abdominal pain, the drainage from the abdominal drain changes ___ 
appearance, develops a foul odor, becomes bloody, increases 
significantly or stops completely, you develop nausea, vomiting 
or diarrhea.

Please drain and record the drainage from the abdominal drain 
twice daily and as needed. Keep a copy of the output amounts and 
bring this record with you to the office for appointments.

Do not flush catheter at this time unless instructed to flush. 

Change the dressing around the drain site daily. Do not tuck 
dressings under the tubing. Report any drainage or bleeding and 
if the tube appears dislodged. 

You may shower, allow water to run over the site  and pat area 
dry. Do not rub, apply lotions or powders or allow the drain to 
hang freely at any time.

Please continue antibiotics as ordered
No heavy lifting
No driving if taking narcotic pain medication and avoid all 
alcoholic beverages
 
Followup Instructions:
___